US05589492
Methyl 2-(acetylthio)-3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]propanoate
A mixture of methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-bromopropanoate (1.25 g), potassium thioacetate (0.5 g) and dry N,N-dimethylformamide (15 mL) was heated at 80° C. for 18 hours under a nitrogen atmosphere. The mixture was diluted with water (1 L) and extracted with ethyl acetate (3×250 mL). The combined ethyl acetate solutions were washed with water (3×250 mL) and brine (500 mL), dried (MgSO4) and evaporated. The residue was chromatographed on silica gel with 40% ethyl acetate in hexane as eluent to afford the title compound, a gum.

reactant | methyl 3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]-2-bromopropanoate | 1.25 g | O1C(=NC2=C1C=CC=C2)N(C)CCOC2=CC=C(C=C2)CC(C(=O)OC)Br | C20H21BrN2O4
reactant | potassium thioacetate | 0.5 g | C(C)(=S)[O-].[K+]
reactant | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | water | 1 L | O | H2O
product | Methyl 2-(acetylthio)-3-[4-[2-[N-(2-benzoxazolyl)-N-methylamino]ethoxy]phenyl]propanoate | C(C)(=O)SC(C(=O)OC)CC1=CC=C(C=C1)OCCN(C)C=1OC2=C(N1)C=CC=C2 | C22H24N2O5S
